US04874861
The resulting 2-tert.-butyl-5-ethoxy-4-methyl-3(2H)-pyridazinone (1.7 g) and potassium hydroxide (6.0 g) were added to 30 ml of ethyleneglycol, and the mixture was stirred under reflux for 3 hours. The reaction mixture was poured into 200 ml of water and added with 30 ml of 6N-hydrochloric acid. The crystals thus precipitated was collected by filtration. After drying, the crystals were washed with hot hexane to give 1.3 g of 2-tert.-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone. The melting point and the result of NMR analysis of this product were identical with those of the product obtained by the Method A.

reactant | 2-tert.-butyl-5-ethoxy-4-methyl-3(2H)-pyridazinone | 1.7 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)OCC | C11H18N2O2
reactant | potassium hydroxide | 6.0 g | [OH-].[K+]
reactant | ethyleneglycol | 30 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 2-tert.-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone | 1.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)O | C9H14N2O2
